US07750026B2
Z/E 1-(4-Bromo-2,5-difluorophenyl)-1-(4-pyridinyl)methanimine
A stirred solution of 1,4-dibromo-2,5-difluorobenzene (2.72 g) in anhydrous diethylether (50 ml) under nitrogen was cooled to −78° C. in a dry-ice/acetone bath then treated with n-butyllithium (1.6M in hexanes, 7.2 ml). The reaction mixture was stirred for 20 min and a solution of 4-cyanopyridine (1.4 g) in diethylether (60 ml) was added dropwise. The resulting mixture was stirred for a further 20 min then treated with saturated aqueous ammonium chloride. The ether layer was separated, washed with brine, dried (sodium sulfate) and concentrated under vacuum. The crude product was purified on an SPE cartridge (silica) using a cyclohexane/ethyl acetate gradient as eluant to give the title compound as a colourless gum (1.50 g).

reactant | 1,4-dibromo-2,5-difluorobenzene | 2.72 g | BrC1=C(C=C(C(=C1)F)Br)F | C6H2Br2F2
reactant | n-butyllithium | 1.6M, 7.2 ml | C(CCC)[Li]
reactant | 4-cyanopyridine | 1.4 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | diethylether | 60 ml | C(C)OCC | C4H10O
product | 1-(4-Bromo-2,5-difluorophenyl)-1-(4-pyridinyl)methanimine | 1.50 g | BrC1=CC(=C(C=C1F)C(=N)C1=CC=NC=C1)F | C12H7BrF2N2
